US07825258B2
N-Benzyl-2-cyclohexyl-2-[5-fluoro-2-((R)-methoxy-phenyl-methyl)-benzoimidazol-1-yl]-acetamide
To a solution of (2-amino-5-fluoro-phenyl)-carbamic acid tert-butyl ester (4.0 g, 17.68 mmol, 1.0 equiv; prepared as described in M. J. Bamford, M. J. Alberti, N. Bailey, S. Davies, D. K. Dean, A. Gaiba, S. Garland, J. D. Harling, D. K. Jung, T. A. Panchal, C. A. Parr, J. G. Steadman, A. K. Takle, J. T. Townsend, D. M. Wilson, J. Witherington Bioorg. Med. Chem. Lett. 2005, 15, 3402-3406) in methanol (50 mL) was added cyclohexanecarbaldehyde (1.98 g, 2.13 mL, 17.68 mmol, 1.0 equiv; [2043-61-0]) and the mixture stirred at rt. After 30 min, (R)-methoxy-phenyl-acetic acid (2.94 g, 17.68 mmol, 1.0 equiv; [CAS RN 3966-32-3]) and isocyanomethyl-benzene (2.07 g, 2.15 mL, 17.68 mmol, 1.0 equiv; [931-53-3]) were added and stirring continued at rt for 2 h. A solution of 4 M HCl in dioxane (18 mL) was added and the reaction mixture stirred at rt overnight. The solution was concentrated by evaporation under reduced pressure, the pH adjusted to 9 by addition of a solution of 1 M NaHCO3 and the aqueous layer extracted with dichloromethane. The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane (+1% triethylamine)/ethyl acetate to give 5.9 g (69%) of the title compound. 1H NMR (300 MHz, CDCl3): δ1.25 (t, J=7.5 Hz, 3H), 1.41 (t, J=7.5 Hz, 3H), 3.43 (s, 3H), 4.01 (q, J=7.5 Hz, 2H), 4.26 (q, J=7.5 Hz, 2H), 5.05 (s, 1H), 6.43-6.48 (m, 2H). MS (ISP): 486.4 [M+H]+.

reactant | (2-amino-5-fluoro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)F)N)=O | C11H15FN2O2
reactant | cyclohexanecarbaldehyde | 17.68 mmol, 2.13 mL, 1.98 g, 1.0 equiv | C1(CCCCC1)C=O | C7H12O
reactant | (R)-methoxy-phenyl-acetic acid | 17.68 mmol, 2.94 g, 1.0 equiv | CO[C@@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | isocyanomethyl-benzene | 17.68 mmol, 2.15 mL, 2.07 g, 1.0 equiv | [N+](#[C-])CC1=CC=CC=C1 | C8H7N
reactant | HCl | 4 M | Cl | ClH
reactant | methanol | 50 mL | CO | CH4O
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
product | N-Benzyl-2-cyclohexyl-2-[5-fluoro-2-((R)-methoxy-phenyl-methyl)-benzoimidazol-1-yl]-acetamide | 5.9 g, 69% | C(C1=CC=CC=C1)NC(C(N1C(=NC2=C1C=CC(=C2)F)[C@@H](C2=CC=CC=C2)OC)C2CCCCC2)=O | C30H32FN3O2
